US04499094
Operations are carried out as for Example 7, starting from 2.83 g of 1-(2-chloro phenyl) isoquinoline 3-carboxylic acid, 1.17 g of triethylamine, 1.25 g of ethyl chloroformate and 1.31 g of di-isopropylamine in 100 ml of chlorofom. 0.85 g of N,N-di(1-methyl ethyl) 1-(2-chloro phenyl) isoquinoline 3-carboxamide, melting at 161° C., is obtained.

reactant | 1-(2-chloro phenyl) isoquinoline 3-carboxylic acid | 2.83 g | ClC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C16H10ClNO2
reactant | ethyl chloroformate | 1.25 g | ClC(=O)OCC | C3H5ClO2
reactant | di-isopropylamine | 1.31 g | C(C)(C)NC(C)C | C6H15N
solvent | triethylamine | 1.17 g | C(C)N(CC)CC | C6H15N
product | N,N-di(1-methyl ethyl) 1-(2-chloro phenyl) isoquinoline 3-carboxamide | 0.85 g | CC(C)N(C(=O)C=1N=C(C2=CC=CC=C2C1)C1=C(C=CC=C1)Cl)C(C)C | C22H23ClN2O
